US04232016
3.57 g. of 1-(2,2,2-trifluoroethyl)-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine, obtainable from the corresponding 3-hydroxy compound by reaction with SOCl2 and then AgF, is dissolved in a mixture of 35 ml. of acetone and 20 ml. of pyridine; 1.35 g. of KMnO4 are added in portions. During the addition, the mixture is briefly boiled up after each addition until the violet color has disappeared. The mixture is then heated at 100° for 1 hour more. NaHSO3 solution is added to decompose the excess oxidizing agent and the mixture is worked up in the customary manner to give 1-(2,2,2-trifluoroethyl)-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | 1-(2,2,2-trifluoroethyl)-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine | FC(CN1CC(N=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)F)(F)F | C17H13ClF4N2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,2,2-trifluoroethyl)-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC(CN1C(C(N=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)F)=O)(F)F | C17H11ClF4N2O
